US04124596
Methyl 2-{3-(5-methoxycarbonyl-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}hexanoate (29.6 g), suspended in a mixture of potassium hydroxide pellets (15.5 g), distilled water (50 cc) and ethanol (100 cc), is stirred for 17 hours at a temperature of about 20° C. The solvents are distilled off under reduced pressure (30 mm Hg) at 40°-50° C. and the residue is dissolved in distilled water (150 cc). The solution obtained is stirred with decolourizing charcoal (0.5 g), filtered and acidified to pH 1 by the addition of a 5N aqueous solution of hydrogen chloride. The resulting crystals are filtered off, washed three times with distilled water (total 150 cc) and dried under reduced pressure (20 mm Hg) at 70° C. in the presence of potassium hydroxide pellets. Crude 2-{3-(5-carboxy-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}hexanoic acid (28.4 g), melting at 208° C., is thus obtained.

reactant | Methyl 2-{3-(5-methoxycarbonyl-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}hexanoate | 29.6 g | COC(=O)C1=CC2=C(S1)SC(=C2)C(=O)C=2C=C(C=CC2)C(C(=O)OC)CCCC | C22H22O5S2
reactant | charcoal | 0.5 g | C | CH4
solvent | potassium hydroxide | [OH-].[K+]
product | 2-{3-(5-carboxy-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}hexanoic acid | 28.4 g | C(=O)(O)C1=CC2=C(S1)SC(=C2)C(=O)C=2C=C(C=CC2)C(C(=O)O)CCCC | C20H18O5S2
